US06251919B1
The preparation of Example 13: 1-(3-Methyl-butyl)-piperidine-4-carboxylic acid (0.1 g, 0.50 mmol) was dissolved in DMF (5 mL) and treated with (4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine (0.175 g, 0.50 mmol), diisopropylethylamine (0.26 mL, 1.5 mmol), and HBTU (0.19 g, 0.50 mmol). The reaction was stirred for 4 hours, then diluted with EtOAc (125 mL), washed with saturated sodium bicarbonate solution and brine, dried over Na2SO4, and concentrated. The residue was chromatographed on silica gel eluting with 8% MeOH/CH2Cl2 to give 47 mg (18%) of {4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl }-[1-(3-methyl-butyl)-piperidin-4-yl]-methanone.

reactant | 1-(3-Methyl-butyl)-piperidine-4-carboxylic acid | 0.50 mmol, 0.1 g | CC(CCN1CCC(CC1)C(=O)O)C | C11H21NO2
reactant | (4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine | 0.50 mmol, 0.175 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCNCC1)CC=C(C)C | C23H30N2O
reactant | diisopropylethylamine | 1.5 mmol, 0.26 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.50 mmol, 0.19 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 125 mL | CCOC(=O)C | C4H8O2
product | {4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl }-[1-(3-methyl-butyl)-piperidin-4-yl]-methanone | 47 mg, 18% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCN(CC1)C(=O)C1CCN(CC1)CCC(C)C)CC=C(C)C | C34H49N3O2
